US06310056B1
Acetoxymethyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate
To a solution-of 60.2 mg of sodium (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate in 1.4 ml of DMF was added 67.7 mg of acetoxymethyl bromide under the atmosphere of argon at a temperature of −30° C., and the mixture was stirred for 3 hours during which the temperature was raised up to −10° C. The reaction mixture was diluted twice with 20 ml of ethy acetate, and washed twice with 10 ml of semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to a volume of 2 ml. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:methanol=15:1) and Sephadex LH-20 (dichloromethane:methanol=1:1) in this sequence to give 22.1 mg of the title compound.

reactant | sodium (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | 60.2 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)[O-])C1=O.[Na+]
reactant | acetoxymethyl bromide | 67.7 mg | C(C)(=O)OCBr | C3H5BrO2
solvent | DMF | 1.4 ml | CN(C)C=O | C3H7NO
solvent | ethy acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Acetoxymethyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | 22.1 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=CN=C3)C(=O)OCOC(C)=O)C1=O | C17H17N3O6S
